US07749992B2
Isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add bromine (0.016 mL, 0.303 mmol) dropwise to a solution of isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.153 g, 0.288 mmol) in glacial acetic acid (2.8 mL) and heat at 50° C. under nitrogen for 18 h. Cool the mixture to room temperature, dilute with ethyl acetate (50 mL) and wash with saturated sodium bicarbonate (2×50 mL) and 10% aqueous sodium thiosulfate (50 mL), then dry the organic layer over sodium sulfate, filter and remove the solvent under reduced pressure to provide the title compound as a white solid (0.176 g, >99%): ESI MS 609 (M+H).

reactant | bromine | 0.303 mmol, 0.016 mL | BrBr | Br2
reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.288 mmol, 0.153 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC(=C2)C | C26H28F6N2O3
solvent | acetic acid | 2.8 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.176 g, >99% | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)C)Br | C26H27BrF6N2O3
